** sch_path: /home/ivan_torres/UNICASS/GRO-TDC/design/schematic/Buffers_IO.sch
.subckt Buffers_IO DRV_START VDD START VSS DRV_STOP STOP DRV_RESET RESET DRV_ADDER ADDER DRV_CTRL[2] DRV_CTRL[1] DRV_CTRL[0]
+ CTRL[2] CTRL[1] CTRL[0]
*.PININFO DRV_START:I VDD:B VSS:B DRV_STOP:I DRV_RESET:I ADDER:I START:O STOP:O RESET:O DRV_ADDER:O CTRL[2:0]:I DRV_CTRL[2:0]:O
x1 VDD DRV_START VSS START Buffers
x2 VDD DRV_STOP VSS STOP Buffers
x3 VDD DRV_RESET VSS RESET Buffers
x6 VDD ADDER VSS DRV_ADDER Buffers
x4 VDD CTRL[2] VSS DRV_CTRL[2] Buffers
x5 VDD CTRL[1] VSS DRV_CTRL[1] Buffers
x7 VDD CTRL[0] VSS DRV_CTRL[0] Buffers
.ends

* expanding   symbol:  Buffers.sym # of pins=4
** sym_path: /home/ivan_torres/UNICASS/GRO-TDC/design/schematic/Buffers.sym
** sch_path: /home/ivan_torres/UNICASS/GRO-TDC/design/schematic/Buffers.sch
.subckt Buffers VDD IN VSS OUT
*.PININFO IN:I VDD:B VSS:B OUT:O
x1[1] VDD net1 IN VSS INV_D1
x1[0] VDD net1 IN VSS INV_D1
x2[1] VDD OUT net1 VSS INV_D2
x2[0] VDD OUT net1 VSS INV_D2
x3 VDD net1 OUT VSS INV05
.ends


* expanding   symbol:  INV_D1.sym # of pins=4
** sym_path: /home/ivan_torres/UNICASS/GRO-TDC/design/schematic/INV_D1.sym
** sch_path: /home/ivan_torres/UNICASS/GRO-TDC/design/schematic/INV_D1.sch
.subckt INV_D1 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
MM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1
MM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  INV_D2.sym # of pins=4
** sym_path: /home/ivan_torres/UNICASS/GRO-TDC/design/schematic/INV_D2.sym
** sch_path: /home/ivan_torres/UNICASS/GRO-TDC/design/schematic/INV_D2.sch
.subckt INV_D2 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
MM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=1
MM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1
.ends


* expanding   symbol:  INV05.sym # of pins=4
** sym_path: /home/ivan_torres/UNICASS/GRO-TDC/design/schematic/INV05.sym
** sch_path: /home/ivan_torres/UNICASS/GRO-TDC/design/schematic/INV05.sch
.subckt INV05 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
MM1 net1 VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
MM3 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1
MM2 VOUT VIN net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends

